US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid 2-Morpholin-4-ylethyl Ester
A mixture of (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid (20.0 mg, 43 mmol), EDC (45.8 μL, 259 μmol) and HOBt hydrate (39.6 mg, 259 μmol) in DCM (0.5 mL, 8 mmol) was stirred at room temperature for 10 minutes. 4-Morpholineethanol (41.8 μL, 345 μmol) was added, and the resulting mixture was stirred at room temperature overnight. The mixture was concentrated and the residue was dissolved in AcOH (1.5 mL), filtered, and purified by reverse phase preparative HPLC to yield the title compound (14.1 mg) as a TFA salt. MS m/z [M+H]+ calc'd for C22H39ClFN4O2, 577.18. found 577.

reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid | 43 mmol, 20.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)O)O)F | C21H19ClFN3O6
reactant | EDC | 259 μmol, 45.8 μL
reactant | HOBt hydrate | 259 μmol, 39.6 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | DCM | 8 mmol, 0.5 mL | C(Cl)Cl | CH2Cl2
reactant | 4-Morpholineethanol | 345 μmol, 41.8 μL | N1(CCOCC1)CCO | C6H13NO2
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid 2-Morpholin-4-ylethyl Ester | 14.1 mg | N1(CCOCC1)CCOC([C@@H](CN(NC(=O)C1=CC(=NO1)OC)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C27H30ClFN4O7
